
M275896647 N004 vinn N006 VDD PMOS l=0.18u w=4u
M835132210 N004 vinp N005 VDD PMOS l=0.18u w=4u
M534413657 VDD vb1 N002 VDD PMOS l=0.18u w=4u
M773287907 VDD N001 N001 VDD PMOS l=0.18u w=4u
M722109866 VDD N001 N003 VDD PMOS l=0.18u w=4u
M141987277 N001 vb4 vb4 VDD PMOS l=0.18u w=4u
M379485904 N003 vb4 vout VDD PMOS l=0.18u w=4u
M22207157 vout vb3 N005 0 NMOS l=0.18u w=2u
M296091891 N005 vb2 0 0 NMOS l=0.18u w=2u
M872031941 vb4 vb3 N006 0 NMOS l=0.18u w=2u
M473370985 N006 vb2 0 0 NMOS l=0.18u w=2u
VDD VDD 0 1.8
C205718717 vout 0 1p
M577626904 N002 vb5 N004 VDD PMOS l=0.18u w=4u
